US04264605
1-(2,6-DICHLOROBENZOYL)-3-(6-(4-CHLOROPHENYLTHIO)-3-PYRIDINYL)UREA, HYDROCHLORIDE SALT
1-(2,6-Dichlorobenzoyl)-3-(6-(4-chlorophenylthio)-3-pyridinyl)urea (2.0 grams) was refluxed in 100 ml. of concentrated HCl (37%) for 4 hours. The reaction mixture was cooled and the product separated by filtration, yield 1.5 grams, m.p., 214°-217° C.

reactant | 1-(2,6-Dichlorobenzoyl)-3-(6-(4-chlorophenylthio)-3-pyridinyl)urea | 2.0 grams | ClC1=C(C(=O)NC(=O)NC=2C=NC(=CC2)SC2=CC=C(C=C2)Cl)C(=CC=C1)Cl | C19H12Cl3N3O2S
reactant | HCl | Cl | ClH
product | 1-(2,6-DICHLOROBENZOYL)-3-(6-(4-CHLOROPHENYLTHIO)-3-PYRIDINYL)UREA, HYDROCHLORIDE SALT | Cl.ClC1=C(C(=O)NC(=O)NC=2C=NC(=CC2)SC2=CC=C(C=C2)Cl)C(=CC=C1)Cl | InChI=1S/C19H12Cl3N3O2S.ClH/c20-11-4-7-13(8-5-11)28-16-9-6-12(10-23-16)24-19(27)25-18(26)17-14(21)2-1-3-15(17)22;/h1-10H,(H2,24,25,26,27);1H
